US05594135
A solution of 46 mg of (4R,9R)-16-[dimethyl-(1,1,2-trimethylpropyl)silanyloxy]-14-methoxy-13-methyl-4-(3-methyl[1,2,4]oxadiazol-5-yl)-9-(methylsulfonyloxymethyl)-6-thioxo-1,3,4,5,6,7,8,9,10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecin-12-one in a mixture of 0.25 ml of morpholine and 0.25 ml of methanol was stirred at 20° C. for 18 h. The solution was evaporated in vacuo and the residue was treated with ammonium fluoride in methanol in an analogous manner to the procedure described in Example 1 to yield 12 mg of (4R,9S)-16-hydroxy-14-methoxy-13-methyl-4-(3-methyl-1,2,4-oxadiazol-5-yl)-9-(morpholin-4-ylmethyl)-6-thioxo-1,3,4,5,6,7,8,9,10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecin-12-one as a white solid.

reactant | (4R,9R)-16-[dimethyl-(1,1,2-trimethylpropyl)silanyloxy]-14-methoxy-13-methyl-4-(3-methyl[1,2,4]oxadiazol-5-yl)-9-(methylsulfonyloxymethyl)-6-thioxo-1,3,4,5,6,7,8,9,10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecin-12-one | 46 mg | C[Si](OC1=CC(=C(C=2C(OC[C@@H](CCC(N[C@@H](CSCC21)C2=NC(=NO2)C)=S)COS(=O)(=O)C)=O)C)OC)(C(C(C)C)(C)C)C | C30H47N3O8S3Si
reactant | morpholine | 0.25 ml | N1CCOCC1 | C4H9NO
solvent | methanol | 0.25 ml | CO | CH4O
product | (4R,9S)-16-hydroxy-14-methoxy-13-methyl-4-(3-methyl-1,2,4-oxadiazol-5-yl)-9-(morpholin-4-ylmethyl)-6-thioxo-1,3,4,5,6,7,8,9,10,12-decahydro-11,2,5-benzoxathiaazacyclotetradecin-12-one | 12 mg | OC1=CC(=C(C=2C(OC[C@@H](CCC(N[C@@H](CSCC21)C2=NC(=NO2)C)=S)CN2CCOCC2)=O)C)OC | C25H34N4O6S2
